US06114163
Preparation of N-Acetyl-D,L-valine
11.7 g (0.10 mol) D,L-Valine were dissolved in 100 ml of acetic acid and treated with 11.2 g (0.11 mol) acetic anhydride at 90° C. Concentration was carried out after 10 minutes at 15 mbar and 100° C. After HPCL analysis the crystalline residue was shown to contain 95.6% Acetyl-D,L-valine and 2.8% N-Acetyl-D,L-valyl-D,L-valine.

reactant | D,L-Valine | 0.10 mol, 11.7 g | NC(C(C)C)C(=O)O | C5H11NO2
reactant | acetic anhydride | 0.11 mol, 11.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-Acetyl-D,L-valine | C(C)(=O)NC(C(C)C)C(=O)O | C7H13NO3
